### ISSUE TITLE
Unknown identifier in `do` block inside tactic mode

### ISSUE THREAD

**Issue by Vierkantor** [leanprover-community/lean#500]
Local variables appearing on the last line of a `do` block inside tactic mode cause an incorrect "unknown identifier" error:

```lean
example (foo bar : list ℤ) : false :=
begin
  have : do { x ← bar, foo } = bar >> foo := rfl, -- unknown identifier 'foo'
  calc do { x ← bar, foo } = bar >> foo : rfl, -- unknown identifier 'foo'
  admit
end
```
It seems to happen regardless of the tactic used, e.g. writing `calc` instead of `have` also causes the same error.

The error only occurs for local names, globals are fine. Also, replacing it with an underscore, or putting the `do` block in term mode, will work:
```lean
example (foo bar : list ℤ) : false :=
begin
  have : do { x ← bar, _ } = bar >> foo := rfl, -- works
  have : do { x ← bar, list.nil } = [] := sorry, -- works
  admit
end

example (foo bar : list ℤ) : false :=
have this : do { x ← bar, foo } = bar >> foo, from rfl, -- works
sorry
```
